US08133995B2
Step 1: Preparation of 1-{4-[4-amino-7-bromo-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea
To a solution of THF (500 mL) was added 1-{4-[4-amino-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea (2.29 g, 4.65 mmol). The solution was cooled to −40° C. and then 1,3-dibromo-5,5-dimethylhydantoin (665 mg, 2.33 mmol) was added in two batches 20 min apart. The reaction was stirred at −40° C. for 1 h and then allowed to warm to rt over the following 2 h. Aq saturated Na2SO3 was added to the reaction followed by EtOAc. The layers were separated and the aqueous layer was back extracted with EtOAc. The organic layer was washed with 1N NaOH and water, dried (Na2SO4), filtered and evaporated to yield 2.83 g crude (107%) of the desired product. MS [M+H]+=571; LCMS RT=3.54.

reactant | THF | 500 mL | C1CCOC1 | C4H8O
reactant | 1-{4-[4-amino-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea | 4.65 mmol, 2.29 g | NC1=NC=NN2C1=C(C(=C2)COC)C2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F | C22H17F5N6O2
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 2.33 mmol, 665 mg | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{4-[4-amino-7-bromo-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea | 107% | NC1=NC=NN2C1=C(C(=C2Br)COC)C2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F | C22H16BrF5N6O2
